US04562185
31.2 g (0.2 mole) of ethyl iodide are added to a solution of 6.2 g (0.02 mole) of 5-(3,4-dichlorophenyl)-5-aminocarbonyl-1,2,3-oxathiazolidin-4-one-2-oxide and 2.02 g (0.02 mole) of triethylamine in 50 ml of acetonitrile. The solution is heated to the boil for four hours and then evaporated down under reduced pressure. The residue is taken up in 50 ml of dichloromethane, and the solution is washed with three times 20 ml of water. The organic phase is evaporated down and the residue is triturated with diethyl ether. In this manner, 4.7 g (70% of theory) of 3-ethyl-5-(3,4-dichlorophenyl)-5-aminocarbonyl-1,2,3-oxathiazolidin-4-one-2-oxide of melting point 127°-128° C. are obtained.

reactant | ethyl iodide | 0.2 mole, 31.2 g | C(C)I | C2H5I
reactant | 5-(3,4-dichlorophenyl)-5-aminocarbonyl-1,2,3-oxathiazolidin-4-one-2-oxide | 0.02 mole, 6.2 g | ClC=1C=C(C=CC1Cl)C1(C(NS(O1)=O)=O)C(=O)N | C9H6Cl2N2O4S
reactant | triethylamine | 0.02 mole, 2.02 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-ethyl-5-(3,4-dichlorophenyl)-5-aminocarbonyl-1,2,3-oxathiazolidin-4-one-2-oxide | 4.7 g, 70% | C(C)N1S(OC(C1=O)(C(=O)N)C1=CC(=C(C=C1)Cl)Cl)=O | C11H10Cl2N2O4S
